US07858640B2
8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-5-(1H-tetrazol-5-yl)quinoline
A mixture of 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinoline-5-carbonitrile (0.048 g), toluene (1.5 mL), trimethylsilyl azide (0.081 g) and dibutyltin oxide (0.007 g) were sealed in a flask and heated at 100° C. for 66 hours. The mixture was cooled to room temperature and diluted with ethyl acetate. The resulting mixture was washed with saturated aqueous sodium hydrogen carbonate solution and the pH of the aqueous phase was adjusted to 5 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration, washed with diluted aqueous acetic acid solution and dried to afford title compound as a white solid, 0.017 g.

reactant | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinoline-5-carbonitrile | 0.048 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)C#N | C19H14Cl2N2
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | trimethylsilyl azide | 0.081 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.007 g | C(CCC)[Sn](CCCC)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-5-(1H-tetrazol-5-yl)quinoline | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)C1=NN=NN1 | C19H15Cl2N5
